US07169761B2
Potassium carbonate (2.7 g) and benzyl bromide (2.3 ml) were added to a solution of 1-(3-bromo-4-hydroxyphenyl) acetone (4.0 g) in DMF (40 ml) and the mixture was stirred at room temperature for six hours. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate-n-hexane) to obtain 1-[4-(benzyloxy)-3-bromophenyl]acetone (3.65 g).

reactant | Potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-(3-bromo-4-hydroxyphenyl) acetone | 4.0 g | BrC=1C=C(C=CC1O)CC(=O)C | C9H9BrO2
reactant | water | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-[4-(benzyloxy)-3-bromophenyl]acetone | 3.65 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)C)Br | C16H15BrO2
